US07714010B2
Analogously to general procedure (I) N-(3,3-dimethyl-6-nitro-2-oxo-2,3-dihydro-1H-indol-5-yl)-acetamide (1 g) is alkylated using 1-chloro-2-ethylsulfanyl-ethane (0.5 ml; 3.83 mmol) and K2CO3 (0.54 g; 3.83 mmol) at 40° C. for 4 d. After aqueous work-up and purification by RP chromatography the pure material (0.77 g) is de-acetylated in MeOH (35 ml) using DBU (0.3 ml) at reflux. After aqueous work-up 5-amino-1-(2-ethylsulfanyl-ethyl)-3,3-dimethyl-6-nitro-1,3-dihydro-indol-2-one (0.65 g) is obtained and used without further purification.

reactant | N-(3,3-dimethyl-6-nitro-2-oxo-2,3-dihydro-1H-indol-5-yl)-acetamide | 1 g | CC1(C(NC2=CC(=C(C=C12)NC(C)=O)[N+](=O)[O-])=O)C | C12H13N3O4
reactant | 1-chloro-2-ethylsulfanyl-ethane | 3.83 mmol, 0.5 ml | ClCCSCC | C4H9ClS
reactant | K2CO3 | 3.83 mmol, 0.54 g | C(=O)([O-])[O-].[K+].[K+]
product | 5-amino-1-(2-ethylsulfanyl-ethyl)-3,3-dimethyl-6-nitro-1,3-dihydro-indol-2-one | 0.65 g | NC=1C=C2C(C(N(C2=CC1[N+](=O)[O-])CCSCC)=O)(C)C | C14H19N3O3S
